US05698360
Preparation of benzene sulfonamido acetaldehyde dimethyl acetal
56 g 2-aminoacetaldehyde dimethyl acetal are dissolved in 200 ml of a 14 wt. % aqueous sodium carbonate solution at 20 ° C. in a three-necked flask, equipped with a thermometer, reflux condenser, tap funnel and magnetic stirrer. Subsequently, 88 g benzene sulfochloride are added drop-wise within 1 hour at this temperature under intensive stirring followed by another 2 hours of heating the reaction to 40° to 50° C. mixture under vigorous stirring. After that the intensive smell of benzene sulfochloride has disappeared and a second phase has formed. This heavy oily phase is separated in the separatory funnel, imbibed using diethyl ether and dried over water-free sodium sulfate. Once the drying agent has been removed and the ether has been distilled off, 112 g of the product are obtained (yield: 88 based on the amino acetal used).

reactant | 2-aminoacetaldehyde dimethyl acetal | 56 g | COC(CN)OC | C4H11NO2
reactant | benzene sulfochloride | 88 g | S(=O)(=O)(O)Cl.C1=CC=CC=C1
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | benzene sulfonamido acetaldehyde dimethyl acetal | 112 g | COC(CNS(=O)(=O)C1=CC=CC=C1)OC | C10H15NO4S
